US05908919
A. 2-Bromoethoxycarbonyl[bis(2-chloroethyl)amine]
2-Bromoethyl chloroformate (5.6 mL, 50 mmol) was added to a stirred suspension of bis(2-chloroethyl)amine hydrochloride (9.8 g, 55 mmol) in 250 mL of dry dichloromethane at 0-5° C. under argon over 2 min followed by 28 mL (200 mmol) of triethylamine over 20 min. The mixture was stirred at 5-10° C. for 3 h and at room temperature for 18 h, then suction filtered. The filtrate was concentrated in vacuo.

reactant | 2-Bromoethyl chloroformate | 50 mmol, 5.6 mL | ClC(=O)OCCBr | C3H4BrClO2
reactant | bis(2-chloroethyl)amine hydrochloride | 55 mmol, 9.8 g | Cl.ClCCNCCCl
reactant | triethylamine | 200 mmol, 28 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | 2-Bromoethoxycarbonyl[bis(2-chloroethyl)amine] | BrCCOC(=O)N(CCCl)CCCl | C7H12BrCl2NO2
